US05770380
Cbz-Asp(OBut)-Gly-OBn (HMY2715).
A mixture of Cbz-Asp(OBut)-OH (3590 mg, 11.1 mmol), HCl+H-Gly-OBn (3360 mg, 16.6 mmol), EDCI (3180 mg, 16.6 mmol), HOBt (2250 mg, 16.6 mmol) and DIEA (2900 mg, 16.6 mmol) in dry CH2 Cl2 (50 mL) was stirred at r.t. for six hours. The reaction mixture was added CH2Cl2 (150 mL) and washed with 1N HCl (200 mL), saturated NaHCO3 aq. (200 mL) and brine (200 mL). The organic layer was passed through an inch of SiO2 layer and the SiO2 was washed with 1/9=AcOEt/CH2Cl2 (200 mL). The eluent was evaporated in vacuo to give clear oil (5690 mg, 100%): 1H NMR (300 MHz, CDCl3) δ 7.368 (s, 10H), 7.082 (t, 1H), 6.013 (d, J=7.8 Hz, 1H), 5.164 (s, 2H), 5.126 (s, 2H), 4.592 (d, J=6.6 Hz, 1H), 4.072 (d, J=5.7 Hz, 2H), 2.891 (dd, J=18.2, 4.5 Hz, 1H), 2.641 (dd, J=17.1, 6.3 Hz, 1H), 1.423 (s, 9H); 13C NMR (300 MHz, CDCl3) δ 171.0, 170.9, 169.3, 136.1, 135.2, 129.7, 128.6 (2C), 128.4, 128.3, 128.2, 81.9, 67.3, 67.2, 51.1, 41.5, 37.3, 28.0.

reactant | Cbz-Asp(OBut)-OH | 11.1 mmol, 3590 mg | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | HCl H-Gly-OBn | 16.6 mmol, 3360 mg | Cl.NCC(=O)OCC1=CC=CC=C1
reactant | EDCI | 16.6 mmol, 3180 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 16.6 mmol, 2250 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 16.6 mmol, 2900 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | Cl2 | 50 mL | ClCl | Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | Cbz-Asp(OBut)-Gly-OBn | 5690 mg, 100% | N([C@@H](CC(OC(C)(C)C)=O)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H30N2O7
